US09334242B2
(5-Phenylthiophen-3-yl)(3,4,5-trimethoxyphenyl)methanol (400. At −78° C., to a solution of 38f (2.5 mmol) in 5 mL THF under argon protection was added a solution of LiAlH4 in THF (1N, 1.42 mL) and stirring continued at 1 h at −20° C. The reaction mixture was placed on an ice bath and quenched by 20% H2SO4 solution, extracted with ethyl acetate and dried over MgSO4. The solvent was removed under reduced pressure and purified by column chromatography to yield 5-phenylthiophene-3-carbaldehyde (not shown) (84.8%). 1H NMR (CDCl3) δ 9.98 (s, 1H), 8.04 (d, 1H, J=1.5 Hz), 7.86 (br, 1H), 7.61-7.58 (br, 2H), 7.47-7.33 (m, 3H), 7.35-7.32 (m, 1H), 6.78 (d, 1H, J=4.0 Hz); MS (ESI) m/z 210.9 (M+Na)+. To a solution of 5-phenylthiophene-3-carbaldehyde (0.195 g, 1.04 mmol.) in 5 mL THF was added a THF solution of 3,4,5-trimethoxyphenylmagnesiumbromide (0.5 N, 2.3 mL, 1.14 mmol) at 0° C. The mixture was allowed to stir for 30 min and quenched with satd. NH4Cl, extracted with ethyl ether, dried with MgSO4. The solvent was removed under reduced pressure to yield a crude product, which was purified by column chromatography to obtain pure compound 40f. (70.5%). 1H NMR (CDCl3) δ 7.55-7.52 (m, 2H), 7.40-7.35 (m, 3H), 7.30 (br, 1H), 7.20 (br, 1H), 6.72 (s, 2H), 6.01 (d, 1H, J=3.9 Hz), 3.86 (s, 6H), 3.85 (s, 3H), 2.42 (d, 1H, J=3.9 Hz); MS (ESI) m/z 339.1 (M−OH)−.

reactant | (5-Phenylthiophen-3-yl)(3,4,5-trimethoxyphenyl)methanol | C1(=CC=CC=C1)C1=CC(=CS1)C(O)C1=CC(=C(C(=C1)OC)OC)OC | C20H20O4S
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 1N, 1.42 mL | C1CCOC1 | C4H8O
product | 5-phenylthiophene-3-carbaldehyde | C1(=CC=CC=C1)C1=CC(=CS1)C=O | C11H8OS
